US07902247B2
A mixture of pyridin-4-yl(1-trityl-1H-imidazol-5-yl)methanol, (Intermediate 4) (526 g, 1.03 mmol) in 57% aqueous Hl (10 mL) and iPrOH (2 mL) was added red phosphorus (318 mg, 10.3 mmol) in a resealable tube was heated at 160° C. for 16 h. The mixture was then cooled to room temperature and poured into ice-water, which was then basified with NaOH and diluted with CHCl3. The residue was isolated in a typical aqueous workup using CHCl3 and purified by MPLC with 5 to 15% MeOH: CH2Cl2 to give 4-(1-(1H-imidazol-5-yl)-2-phenylethyl)pyridine (AGN214418) as a solid, 36 mg. 1HNMR (CD3OD, 300 MHz) δ 6.98 (s, 1H), 7.20-7.11, (m, 9H), 7.61 (s, 1H), 4.38 (t, J=9 Hz, 1H), 3.43 (dd, J=6 Hz, 12 Hz, 1H), 3.19 (dd, J=9 Hz, 15 Hz, 1H).

reactant | pyridin-4-yl(1-trityl-1H-imidazol-5-yl)methanol | N1=CC=C(C=C1)C(O)C1=CN=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H23N3O
reactant | iPrOH | 2 mL | CC(C)O | C3H8O
reactant | NaOH | [OH-].[Na+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 4-(1-(1H-imidazol-5-yl)-2-phenylethyl)pyridine | N1C=NC=C1C(CC1=CC=CC=C1)C1=CC=NC=C1 | C16H15N3
